US07105679B2
3-[2,4-Bis-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-4-(3-chloro-2-oxo-propyl)-7-(2-trimethylsilanyl-ethoxymethoxy)-chromen-2-one
At room temperature, 3-[2,4-Bis-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-4-methyl-7-(2-trimethylsilanyl-ethoxymethoxy)-chromen-2-one (1.6 g, 2.37 mmol) in THF (10 mL) was added LiHMDS (2.9 mL, 2.84 mmol) slowly. The reaction mixture was stirred for 10 min and then added into chloroacetyl chloride (0.28 mL, 1.5 equiv.) in THF (20 mL) at −20° C. The reaction mixture was maintained at −20° C. for 1 hour, then diluted with diethyl ether (200 mL), washed with aqueous NH4Cl (100 ml), brine and organic layer was dried over anhydrous MgSO4. The resulting product was then concentration by vacuum to dryness and purified by silica gel column chromatography to yield the title compound as a colorless oil.

reactant | 3-[2,4-Bis-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-4-methyl-7-(2-trimethylsilanyl-ethoxymethoxy)-chromen-2-one | 2.37 mmol, 1.6 g | C[Si](CCOCOC1=C(C=CC(=C1)OCOCC[Si](C)(C)C)C=1C(OC2=CC(=CC=C2C1C)OCOCC[Si](C)(C)C)=O)(C)C | C34H54O8Si3
reactant | LiHMDS | 2.84 mmol, 2.9 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | chloroacetyl chloride | 0.28 mL, 1.5 equiv. | ClCC(=O)Cl | C2H2Cl2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | 3-[2,4-Bis-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-4-(3-chloro-2-oxo-propyl)-7-(2-trimethylsilanyl-ethoxymethoxy)-chromen-2-one | C[Si](CCOCOC1=C(C=CC(=C1)OCOCC[Si](C)(C)C)C=1C(OC2=CC(=CC=C2C1CC(CCl)=O)OCOCC[Si](C)(C)C)=O)(C)C | C36H55ClO9Si3
